### PR TITLE
[Merged by Bors] - feat(Analysis/Normed): generalize lemmas to NormMulClass

### PR DESCRIPTION
**Pull request by loefflerd**
Generalise some lemmas about `NormedDivisionRing` to any normed ring satisfying `NormMulClass`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Normed/Ring/Lemmas.lean [hunk 1]
```diff
@@ -214,3 +215,60 @@ instance Int.instNormOneClass : NormOneClass ℤ :=
...
+  AntilipschitzWith.of_le_mul_dist fun _ _ ↦ by simp [dist_eq_norm, ← _root_.mul_sub, ha]
+
+lemma antilipschitzWith_mul_right {a : α} (ha : a ≠ 0) : AntilipschitzWith (‖a‖₊⁻¹) (· * a) :=
+  AntilipschitzWith.of_le_mul_dist fun _ _ ↦ by
+    simp [dist_eq_norm, ← _root_.sub_mul, ← mul_comm (‖a‖), ha]
+
+/-- Multiplication by a nonzero element `a` on the left, as a `Dilation` of a ring with a strictly
+multiplicative norm. -/
+@[simps!]
+def Dilation.mulLeft {a : α} (ha : a ≠ 0) : α →ᵈ α where
```
Comment (eric-wieser) [inline Mathlib/Analysis/Normed/Ring/Lemmas.lean:233]: Out of scope for this PR, but perhaps we should change this in a later pr to `ha : ‖a‖ ≠ 0` to make this work for `SeminormedRing`.

File: Mathlib/Analysis/Normed/Ring/Lemmas.lean [hunk 2]
```diff
@@ -214,3 +215,60 @@ instance Int.instNormOneClass : NormOneClass ℤ :=
 
 instance Int.instNormMulClass : NormMulClass ℤ :=
   ⟨fun a b ↦ by simp [← Int.norm_cast_real, abs_mul]⟩
+
+section NormMulClass
+
+variable [NormedRing α] [NormMulClass α] {a : α}
```
Comment (eric-wieser) [inline Mathlib/Analysis/Normed/Ring/Lemmas.lean:221]: Does everything still work if you make this `NonUnital`?

File: Mathlib/Analysis/Normed/Ring/Lemmas.lean [hunk 3]
```diff
@@ -3,21 +3,22 @@ Copyright (c) 2018 Patrick Massot. All rights reserved.
...
+import Mathlib.Topology.MetricSpace.Dilation
 
 /-!
 # Normed rings
 
 In this file we continue building the theory of (semi)normed rings.
 -/
 
--- Guard against import creep.
-assert_not_exists RestrictScalars
```
Comment (eric-wieser) [inline Mathlib/Analysis/Normed/Ring/Lemmas.lean:19]: I'm not entirely sure what this was trying to protect against, but maybe we should replace it with a weaker constraint rather than dropping it altogether. Are you able to track down who added it?

Comment (loefflerd) [reply Mathlib/Analysis/Normed/Ring/Lemmas.lean:19]: Oh, yes, I should have explained that. The current files `Normed/Ring/Lemmas` and `Normed/Field/Lemmas` were formerly one file which I split into two halves, and this anti-import constraint got copied into both (my mistake). Since `Normed/Field/Lemmas` imports `Normed/Ring/Lemmas`, it suffices to have it in the former.

File: Mathlib/Analysis/Normed/Ring/Lemmas.lean (hunk 2 above)
Comment (loefflerd) [reply Mathlib/Analysis/Normed/Ring/Lemmas.lean:221]: It does indeed, well spotted.

File: Mathlib/Analysis/Normed/Ring/Lemmas.lean (hunk 1 above)
Comment (loefflerd) [reply Mathlib/Analysis/Normed/Ring/Lemmas.lean:233]: That should indeed be possible, but it's not 100% clear to me if the gain in generality is worth the loss of convenience in the main use-case of actually normed rings. Let's save it for later.

File: Mathlib/Analysis/Normed/Ring/Lemmas.lean [hunk 4]
```diff
@@ -214,3 +215,59 @@ instance Int.instNormOneClass : NormOneClass ℤ :=
 
 instance Int.instNormMulClass : NormMulClass ℤ :=
   ⟨fun a b ↦ by simp [← Int.norm_cast_real, abs_mul]⟩
+
+section NonUnital
```
Comment (eric-wieser) [inline Mathlib/Analysis/Normed/Ring/Lemmas.lean:219]:
```suggestion
section NonUnitalNormedRing
```

File: Mathlib/Analysis/Normed/Ring/Lemmas.lean [hunk 5]
```diff
@@ -214,3 +215,59 @@ instance Int.instNormOneClass : NormOneClass ℤ :=
...
+variable [NonUnitalNormedRing α] [NormMulClass α] {a : α}
+
+lemma antilipschitzWith_mul_left {a : α} (ha : a ≠ 0) : AntilipschitzWith (‖a‖₊⁻¹) (a * ·) :=
+  AntilipschitzWith.of_le_mul_dist fun _ _ ↦ by simp [dist_eq_norm, ← _root_.mul_sub, ha]
```
Comment (eric-wieser) [inline Mathlib/Analysis/Normed/Ring/Lemmas.lean:223]: Why are these `_root_`s needed here?

Comment (loefflerd) [reply Mathlib/Analysis/Normed/Ring/Lemmas.lean:223]: ... They aren't, it was just code copied verbatim from elsewhere.

File: Mathlib/Analysis/Normed/Field/Lemmas.lean [hunk 6]
```diff
@@ -34,50 +31,29 @@ section NormedDivisionRing
...
-
 /-- Multiplication by a nonzero element `a` on the left
 as a `DilationEquiv` of a normed division ring. -/
 @[simps!]
-def DilationEquiv.mulLeft (a : α) (ha : a ≠ 0) : α ≃ᵈ α where
-  toEquiv := Equiv.mulLeft₀ a ha
-  edist_eq' := ⟨‖a‖₊, nnnorm_ne_zero_iff.2 ha, fun x y ↦ by
-    simp [edist_nndist, nndist_eq_nnnorm, ← mul_sub]⟩
+def DilationEquiv.mulLeft (ha : a ≠ 0) : α ≃ᵈ α :=
+  { Dilation.mulLeft ha with toEquiv := Equiv.mulLeft₀ a ha }
```
Comment (eric-wieser) [inline Mathlib/Analysis/Normed/Field/Lemmas.lean:38]: a style nit, for consistency (and diff minimization)
```suggestion
def DilationEquiv.mulLeft (ha : a ≠ 0) : α ≃ᵈ α with
  __ := Dilation.mulLeft ha
  toEquiv := Equiv.mulLeft₀ a ha
```
and below

File: Mathlib/Analysis/Normed/Field/Lemmas.lean [hunk 7]
```diff
@@ -34,50 +31,29 @@ section NormedDivisionRing
...
-  AntilipschitzWith.of_le_mul_dist fun _ _ ↦ by simp [dist_eq_norm, ← _root_.mul_sub, ha]
-
-lemma antilipschitzWith_mul_right {a : α} (ha : a ≠ 0) : AntilipschitzWith (‖a‖₊⁻¹) (· * a) :=
-  AntilipschitzWith.of_le_mul_dist fun _ _ ↦ by
-    simp [dist_eq_norm, ← _root_.sub_mul, ← mul_comm (‖a‖), ha]
-
 /-- Multiplication by a nonzero element `a` on the left
 as a `DilationEquiv` of a normed division ring. -/
 @[simps!]
-def DilationEquiv.mulLeft (a : α) (ha : a ≠ 0) : α ≃ᵈ α where
```
Comment (eric-wieser) [inline Mathlib/Analysis/Normed/Field/Lemmas.lean:47]: Did you intend to make `a` implicit here? I'd argue it should be explicit, to match `Equiv.mulLeft₀ a ha`

Comment (eric-wieser) [reply Mathlib/Analysis/Normed/Field/Lemmas.lean:47]: > arguments which are inferrable from another explicit argument should be implicit.

I claim this only applies to lemmas; with your proposal the goal state shows things like `Equiv.mulLeft₀ _ b = c`, which tells me nothing about what `b` is being multiplied by

Comment (loefflerd) [reply Mathlib/Analysis/Normed/Field/Lemmas.lean:47]: Good point! I have reverted the change.

**Review by eric-wieser — APPROVED** [review]
bors merge

Thanks!
